US07932272B2
6trifluoromethanesulfonyloxy-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester
6Oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester described in Preparation Example T-8 (9 mg, 43 μmol), N-phenyltrifluoromethanesulfonimide (23 mg, 65, mol) and dimethyl-pyridin-4yl-amine (catalytic amount) were dissolved in dichloromethane (0.5 mL), and the solution was stirred for 18.5 hours at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=3:1), and the title compound (10 mg, 29 μmol, 68%) was obtained as a white solid.

reactant | 6Oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(NC1=O)SC=C2 | C9H7NO3S
reactant | N-phenyltrifluoromethanesulfonimide | 23 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Water | O | H2O
catalyst | dimethyl-pyridin-4yl-amine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 6trifluoromethanesulfonyloxy-thieno[2,3-b]pyridine-5-carboxylic acid methyl ester | 29 μmol, 10 mg, 68% | COC(=O)C=1C=C2C(=NC1OS(=O)(=O)C(F)(F)F)SC=C2 | C10H6F3NO5S2
